US06294566B1
1-Quinolin-4-yl-ethanol.
To 4-quinolinecarbaldehyde (2 g, 12.73 mmol) in 20 ml anhydrous ether, MeLi (1.4M, 10 ml, 13.9 mmol) was added dropwise over a period of five minutes at 0° C. The reaction mixture was stirred at room temperature tor 3 hours. The solution was partitioned between ether (20 ml) and water (10 ml). The organic layer was dried over sodium sulfate, filtered and concentrated to give 1.43 g (59%) of the product which was then used as such for the subsequent step.

reactant | 4-quinolinecarbaldehyde | 12.73 mmol, 2 g | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | MeLi | 13.9 mmol, 1.4M, 10 ml | [Li]C
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-Quinolin-4-yl-ethanol | 1.43 g, 59% | N1=CC=C(C2=CC=CC=C12)C(C)O | C11H11NO
